US04337256
Ethyl 1-(4-nitrophenyl)isoquinoline-5-acetate (4.2 g) was dissolved in 100 ml of ethanol, and 1.0 g of 10% palladium-carbon was added. The reaction was carried out in a stream of hydrogen. After the reaction, the catalyst was removed by filtration, and the filtrate was concentrated under reduced pressure. The residue was recrystallized from ether to afford 3.4 g of ethyl 1-(4-aminophenyl)isoquinoline-5-acetate having a melting point of 129.0° to 132.5° C.

reactant | Ethyl 1-(4-nitrophenyl)isoquinoline-5-acetate | 4.2 g | [N+](=O)([O-])C1=CC=C(C=C1)C1=NC=CC=2C(=CC=CC12)CC(=O)OCC | C19H16N2O4
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 1.0 g | [C].[Pd]
product | ethyl 1-(4-aminophenyl)isoquinoline-5-acetate | 3.4 g | NC1=CC=C(C=C1)C1=NC=CC=2C(=CC=CC12)CC(=O)OCC | C19H18N2O2
